US07714140B2
In 8 ml of acetonitrile were dissolved 0.78 g (3.88 mmol) of 3-chloro-1,2-benzoisothiazole 1,1-dioxide and 0.50 g (3.88 mmol) of (3-methylisothiazol-5-yl)methanol. To the resulting solution was dropwise added 0.51 g (5.0 mmol) of triethylamine, followed by stirring at room temperature for 5 hours to give rise to a reaction. After the completion of the reaction, 16 ml of water was added. The resulting crystals were obtained by filtration and washed with water and isopropyl alcohol to obtain 0.30 g (yield: 26%) of 3-(3-methylisothiazol-5-ylmethoxy)-1,2-benzoisothiazole 1,1-dioxide as a light brown powder (melting point: 202 to 204° C.)

reactant | 3-chloro-1,2-benzoisothiazole 1,1-dioxide | 3.88 mmol, 0.78 g | ClC1=NS(C2=C1C=CC=C2)(=O)=O | C7H4ClNO2S
reactant | (3-methylisothiazol-5-yl)methanol | 3.88 mmol, 0.50 g | CC1=NSC(=C1)CO | C5H7NOS
reactant | triethylamine | 5.0 mmol, 0.51 g | C(C)N(CC)CC | C6H15N
reactant | water | 16 ml | O | H2O
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | 3-(3-methylisothiazol-5-ylmethoxy)-1,2-benzoisothiazole 1,1-dioxide | 0.30 g, yield: 26% | CC1=NSC(=C1)COC1=NS(C2=C1C=CC=C2)(=O)=O | C12H10N2O3S2
